US05173485
To a solution of 1-(2-hydroxyethyl)-4-ethoxycarbonyl-5-aminopyrazole (200 g) in a mixture of methylene chloride (2 l) and triethylamine (210 ml) was added dropwise methanesulfonyl chloride (85.5 ml) under ice-cooling. The mixture was stirred for 1 hour at 3°-5° C. The reaction mixture was poured into ice-water (700 ml). The separated organic layer was washed with 1N hydrochloric acid and water, and dried over magnesium sulfate. The solvent was evaporated to give 1-(2-methylsulfonyloxyethyl)-4-ethoxycarbonyl-5-aminopyrazole (270.8 g) as crystals.

reactant | 1-(2-hydroxyethyl)-4-ethoxycarbonyl-5-aminopyrazole | 200 g | OCCN1N=CC(=C1N)C(=O)OCC | C8H13N3O3
reactant | methanesulfonyl chloride | 85.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 210 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-methylsulfonyloxyethyl)-4-ethoxycarbonyl-5-aminopyrazole | 270.8 g | CS(=O)(=O)OCCN1N=CC(=C1N)C(=O)OCC | C9H15N3O5S
